US07262212B2
A solution of 2-(4-bromophenoxy)-tetrahydropyran (7.2 g, 28 mmol) in THF (70 ml) was cooled to −60° C., to which n-butyl lithium (1.53 M) hexane solution (20 ml, 30.8 mmol) was added dropwise, and the mixture was stirred for 30 minutes. Then, a solution of 1-benzyl-4-piperidone (5.3 g, 28 mmol) in THF (20 ml) was added dropwise to this mixture, which was stirred for 3 hours while being allowed to reach a temperature of 0° C. Saturated ammonium chloride aqueous solution was added to the reaction mixture, which was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=20/1) to afford 1-benzyl-4-[4-(tetrahydropyran-2-yloxy)phenyl]piperidin-4-ol (5.27 g, yield 51%) as an orange-colored oil.

reactant | 2-(4-bromophenoxy)-tetrahydropyran | 28 mmol, 7.2 g | BrC1=CC=C(OC2OCCCC2)C=C1 | C11H13BrO2
reactant | n-butyl lithium | 30.8 mmol, 1.53 M, 20 ml | C(CCC)[Li]
reactant | 1-benzyl-4-piperidone | 28 mmol, 5.3 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-benzyl-4-[4-(tetrahydropyran-2-yloxy)phenyl]piperidin-4-ol | 5.27 g, yield 51% | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)OC1OCCCC1 | C23H29NO3
